US20010020034A1
3-(2,6-Difluoro-4-methyl-benzyloxy)-5-(3-{4-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-butyl} -ureido)-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 2-[4-(4-amino-butyl)-piperazin-1-yl]-ethanol by the procedure analogous to Example 1. MS (APCl, m/z): 527 [M+H]+.

reactant | [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | 2-[4-(4-amino-butyl)-piperazin-1-yl]-ethanol | NCCCCN1CCN(CC1)CCO | C10H23N3O
product | 3-(2,6-Difluoro-4-methyl-benzyloxy)-5-(3-{4-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-butyl} -ureido)-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCN2CCN(CC2)CCO)C(=CC(=C1)C)F | C23H32F2N6O4S
